US05559113
2-{[3-(1H-Imidazol-4-yl)propyl]amino}-5-nitropyridine
A solution of 0.158 g (0.97 mmol) of 3-(1H-imidazol-4-yl)propylamine and of 0.154 g (0.97 mmol) of 2-chloro-5-nitropyridine in 10 ml of 2-propanol is brought to reflux for 21 h while stirring and evaporated under reduced pressure. The resulting residue is chromatographed on a column of silica gel, using a chloroform/methanol (1/1) mixture, to give the title compound in the form of a yellow oil. The latter is treated with oxalic acid in heated absolute ethanol to provide the oxalate salt which, after crystallization from 2-propanol, melts at 181°-182° C.

reactant | 3-(1H-imidazol-4-yl)propylamine | 0.97 mmol, 0.158 g | N1C=NC(=C1)CCCN | C6H11N3
reactant | 2-chloro-5-nitropyridine | 0.97 mmol, 0.154 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | 2-{[3-(1H-Imidazol-4-yl)propyl]amino}-5-nitropyridine | N1C=NC(=C1)CCCNC1=NC=C(C=C1)[N+](=O)[O-] | C11H13N5O2
